US07723369B2
5-(3-{4-(2,4-Dichloro-phenyl)-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-imidazol-1-yl}-phenyl)-1,1-dioxo-2-(2-trimethylsilanyl-ethoxymethyl)-[1,2,5]thiadiazolidin-3-one (385 mg, 0.5 mmol) was treated as described in general procedure G using 3,6-dichloropyridazine (149 mg, 1 mmol) to give 5-{3-[2-[4-(6-chloro-pyridazin-3-yl)-benzyl]-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanyl-ethoxymethyl)-[1,2,5]thiadiazolidin-3-one.

reactant | 5-(3-{4-(2,4-Dichloro-phenyl)-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-imidazol-1-yl}-phenyl)-1,1-dioxo-2-(2-trimethylsilanyl-ethoxymethyl)-[1,2,5]thiadiazolidin-3-one | 0.5 mmol, 385 mg | ClC1=C(C=CC(=C1)Cl)C=1N=C(N(C1)C=1C=C(C=CC1)N1CC(N(S1(=O)=O)COCC[Si](C)(C)C)=O)CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C36H43BCl2N4O6SSi
reactant | 3,6-dichloropyridazine | 1 mmol, 149 mg | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
product | 5-{3-[2-[4-(6-chloro-pyridazin-3-yl)-benzyl]-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanyl-ethoxymethyl)-[1,2,5]thiadiazolidin-3-one | ClC1=CC=C(N=N1)C1=CC=C(CC=2N(C=C(N2)C2=C(C=C(C=C2)Cl)Cl)C=2C=C(C=CC2)N2CC(N(S2(=O)=O)COCC[Si](C)(C)C)=O)C=C1 | C34H33Cl3N6O4SSi
